US05000775
Ethyl 2-(octylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 5.16 g (30 mmol) of n-octyl urea was reacted with 5.4 g (25 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 18 hours. The product was separated and then recrystallized from petroleum ether to yield 1.5 g of a white powder product (m.p.=36°-37° C.) identified in Table I.

reactant | n-octyl urea | 30 mmol, 5.16 g | C(CCCCCCC)NC(=O)N | C9H20N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 25 mmol, 5.4 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(octylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 1.5 g | C(CCCCCCC)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C15H23F3N2O3
